US06831106B1
e) 1-{4-[3-(3,4-Bis-hydroxymethylbenzyloxy)phenyl]-2-thiophenyl}-1-propanol
4.3 g (7.3 mmol) of 1-{4-[3-(3,4-bis(1-phenylmethanoyloxymethyl)benzyloxy)phenyl]-2-thiophenyl}-1-propanone are dissolved in 10 mL of THF and added dropwise to a suspension of 1.1 g (29 mmol) of lithium aluminium hydride, and the mixture is stirred for 2 hours. After treatment of the reaction medium with 1.1 mL of water, 1.1 mL of 15% sodium hydroxide and 3.3 mL of water, the medium is filtered. After purification by chromatography on silica gel (eluent: 3 heptane/7 ethyl acetate), the desired product is obtained in the form of a colourless oil (m=773 mg; Y=28%).

reactant | 1-{4-[3-(3,4-bis(1-phenylmethanoyloxymethyl)benzyloxy)phenyl]-2-thiophenyl}-1-propanone | 7.3 mmol, 4.3 g | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C=C(C=CC2)C=2C=C(SC2)C(CC)=O)C=CC1COC(=O)C1=CC=CC=C1 | C36H30O6S
reactant | lithium aluminium hydride | 29 mmol, 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-{4-[3-(3,4-Bis-hydroxymethylbenzyloxy)phenyl]-2-thiophenyl}-1-propanol | OCC=1C=C(COC=2C=C(C=CC2)C=2C=C(SC2)C(CC)O)C=CC1CO | C22H24O4S
